US08236319B2
1-(tert-Butoxycarbonylamino)-4-ethoxy-4-oxobutane-2-sulfonic acid
In a hydrogenation bottle was added Cyano-3-ethoxy-3-oxopropane-1-sulfonic acid (2.50 g, 12.06 mmol), ethanol (80 ml), fresh filtered Raney Nickel (0.40 g) and BOC anhydride (3.30 g, 15.12 mmol). After the air inside the bottle was sucked out by vacuum, 20 psi of hydrogen was conducted to the bottle. The bottle was shaken over night, filtered through celite, evaporated, and purified on silica gel chromatography eluted with methanol/dichloromethane/acetic acid (1:6:0.01) to afford 3.18 g (85%) of the title compound. 1H NMR (DMSO), 6.82 (s, 1H), 4.26 (m, 1H), 4.11 (dd, 2H, J=7.1, 14.3 Hz), 3.53 (dd, 1H, J=4.2, 13.4 Hz), 3.36 (m, 1H), 2.86 (m, 1H), 2.51 (m, 1H), 1.38 (s, 9H), 1.22 (t, 3H, J=7.2 Hz); 13C NMR 173.35, 155.72, 80.44, 62.05, 52.55, 41.61, 34.50, 28.85, 14.52; MS m/z− 309.8 (MW−H).

reactant | Cyano-3-ethoxy-3-oxopropane-1-sulfonic acid | 12.06 mmol, 2.50 g | C(#N)C(CC(=O)OCC)S(=O)(=O)O | C6H9NO5S
reactant | BOC anhydride | 15.12 mmol, 3.30 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrogen | [H][H] | H2
catalyst | Raney Nickel | 0.40 g | [Ni] | Ni
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 1-(tert-Butoxycarbonylamino)-4-ethoxy-4-oxobutane-2-sulfonic acid | 3.18 g, 85% | C(C)(C)(C)OC(=O)NCC(CC(=O)OCC)S(=O)(=O)O | C11H21NO7S
